US07723538B2
Hydroxylamine hydrochloride (0.24 mg, 3 mmol) was suspended in dimethyl sulfoxide under an argon atmosphere. Triethylamine (0.34 g, 3 mmol) was added dropwise. The mixture was stirred at room temperature for 15 min then filtered, washing with dry tetrahydrofuran. The filtrate was concentrated under vacuum. The resulting solution in dimethyl sulfoxide was treated with 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-(4-cyano-phenyl)-benzamide (0.30 g, 0.68 mmol) and the mixture was warmed to 75° C. and stirred for 2 hours. The mixture was cooled to room temperature then diluted with water and extracted with ethyl acetate. The organic phase was extracted with HCl 0.5 N. The heterogeneous aqueous solution was adjusted to pH 9-10 with NaOH 0.5N, then extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and evaporated to yield 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide as a light green solid, MS (ISP): m/e=473.2 (M−H), which was used as such in the following reaction (0.23 g, 73%)

reactant | Hydroxylamine hydrochloride | 3 mmol, 0.24 mg | Cl.NO
reactant | Triethylamine | 3 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
reactant | 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-(4-cyano-phenyl)-benzamide | 0.68 mmol, 0.30 g | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C#N)C=CC1)OC | C21H16ClN3O4S
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(5-chloro-2-methoxy-benzenesulfonylamino)-N-[4-(N-hydroxycarbamimidoyl)-phenyl]-benzamide | ClC=1C=CC(=C(C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C(NO)=N)C=CC1)OC | C21H19ClN4O5S
